* c:\users\kumar\esim-workspace\double_tail_comp\double_tail_comp.cir

.include INVCMOS.sub
.include NMOS-180nm.lib
.include PMOS-180nm.lib
m1 outp net-_m1-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m5 outp outn gnd gnd CMOSN W=100u L=100u M=1
m8 outn outp gnd gnd CMOSN W=100u L=100u M=1
m12 outn net-_m10-pad1_ gnd gnd CMOSN W=100u L=100u M=1
m3 outp outn net-_m11-pad3_ net-_m11-pad3_ CMOSP W=100u L=100u M=1
m11 outn outp net-_m11-pad3_ net-_m11-pad3_ CMOSP W=100u L=100u M=1
m7 net-_m11-pad3_ net-_m7-pad2_ vdd vdd CMOSP W=100u L=100u M=1
m2 net-_m1-pad2_ clk vdd vdd CMOSP W=100u L=100u M=1
m10 net-_m10-pad1_ clk vdd vdd CMOSP W=100u L=100u M=1
m4 net-_m1-pad2_ in1 net-_m4-pad3_ gnd CMOSN W=100u L=100u M=1
m9 net-_m10-pad1_ in2 net-_m4-pad3_ gnd CMOSN W=100u L=100u M=1
m6 net-_m4-pad3_ clk gnd gnd CMOSN W=100u L=100u M=1
v1  clk gnd pulse(0 5 0 20p 20p 10u 20u)
v2  vdd gnd 5
v4  in1 gnd sine(0 8 1k 0 0)
x1 clk net-_m7-pad2_ INVCMOS
v3  in2 gnd 1
.tran 1e-06 20e-03 10e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
