* c:\users\kumar\esim-workspace\dtc__new\dtc__new.cir

.include lm_741.sub
r1  vref vr1 10k
r2  vr1 vr2 10k
r3  vr2 vr3 10k
r4  vr3 vr4 10k
r5  vr4 vr5 10k
r6  vr5 vr6 10k
r7  vr6 vr7 10k
r8  vr7 gnd 10k
v2  vdd gnd 14
v3  vref gnd 1
v1  vin gnd sine(0 2 500 0 0)
x5 ? vr1 vin vss ? o1 vdd ? lm_741
x6 ? vr2 vin vss ? o2 vdd ? lm_741
x2 ? vr3 vin vss ? o3 vdd ? lm_741
x3 ? vr4 vin vss ? o4 vdd ? lm_741
x4 ? vr5 vin vss ? o5 vdd ? lm_741
x1 ? vr7 vin vss ? o7 vdd ? lm_741
v4  gnd vss 14
x7 ? vr6 vin vss ? o6 vdd ? lm_741
* u5  out1 plot_v1
* u6  out2 plot_v1
* u7  out3 plot_v1
* u2  net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ out1 out2 out3 dac_bridge_3
* u3  o1 o2 o3 o4 o5 o6 o7 gnd net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ adc_bridge_8
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ charaan_pe
a1 [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ ] [out1 out2 out3 ] u2
a2 [o1 o2 o3 o4 o5 o6 o7 gnd ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] u3
a3 [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ ] u1
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u2 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             charaan_pe, NgSpice Name: charaan_pe
.model u1 charaan_pe(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 1e-06 20e-03 10e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out1)
plot v(out2)
plot v(out3)
.endc
.end
