* c:\fossee\esim\library\subcircuitlibrary\double_tail_comp\double_tail_comp.cir

.include INVCMOS.sub
.include PMOS-180nm.lib
.include NMOS-180nm.lib
m1 /out net-_m1-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m5 /out net-_m11-pad1_ gnd gnd CMOSN W=100u L=100u M=1
m8 net-_m11-pad1_ /out gnd gnd CMOSN W=100u L=100u M=1
m12 net-_m11-pad1_ net-_m10-pad1_ gnd gnd CMOSN W=100u L=100u M=1
m3 /out net-_m11-pad1_ net-_m11-pad3_ net-_m11-pad3_ CMOSP W=100u L=100u M=1
m11 net-_m11-pad1_ /out net-_m11-pad3_ net-_m11-pad3_ CMOSP W=100u L=100u M=1
m7 net-_m11-pad3_ net-_m7-pad2_ /vdd /vdd CMOSP W=100u L=100u M=1
m2 net-_m1-pad2_ /clk /vdd /vdd CMOSP W=100u L=100u M=1
m10 net-_m10-pad1_ /clk /vdd /vdd CMOSP W=100u L=100u M=1
m4 net-_m1-pad2_ /in1 net-_m4-pad3_ gnd CMOSP W=100u L=100u M=1
m9 net-_m10-pad1_ /in2 net-_m4-pad3_ gnd CMOSP W=100u L=100u M=1
m6 net-_m4-pad3_ /clk gnd gnd CMOSP W=100u L=100u M=1
x1 /clk net-_m7-pad2_ INVCMOS
* u1  /clk /in1 /out /in2 /vdd port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
