* c:\users\kumar\esim-workspace\flash_adc\flash_adc.cir

.include dtc_new.sub
r1  net-_r1-pad1_ net-_r1-pad2_ 10k
r2  net-_r1-pad2_ net-_r2-pad2_ 10k
r3  net-_r2-pad2_ net-_r3-pad2_ 10k
r4  net-_r3-pad2_ net-_r4-pad2_ 10k
r5  net-_r4-pad2_ net-_r5-pad2_ 10k
r6  net-_r5-pad2_ net-_r6-pad2_ 10k
r7  net-_r6-pad2_ net-_r7-pad2_ 10k
r8  net-_r7-pad2_ gnd 10k
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ pe
v4  clk gnd pulse(0 5 0 20p 20p 10u 20u)
v2  vdd gnd 5
v3  net-_r1-pad1_ gnd 1
v1  net-_x1-pad3_ gnd sine(0 8 1k 0 0)
* u8  en0 plot_v1
* u7  gs0 plot_v1
* u9  out1 plot_v1
* u10  out2 plot_v1
* u11  out3 plot_v1
* u2  gnd o1 o2 net-_u2-pad4_ o3 o4 o5 o6 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ adc_bridge_8
* u3  gnd net-_u1-pad9_ adc_bridge_1
* u4  net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ en0 gs0 out1 out2 out3 dac_bridge_5
x1 clk vdd net-_x1-pad3_ net-_r1-pad2_ o1 dtc_new
x2 clk vdd net-_x1-pad3_ net-_r2-pad2_ o2 dtc_new
x3 clk vdd net-_x1-pad3_ net-_r3-pad2_ net-_u2-pad4_ dtc_new
x4 clk vdd net-_x1-pad3_ net-_r4-pad2_ o3 dtc_new
x5 clk vdd net-_x1-pad3_ net-_r5-pad2_ o4 dtc_new
x6 clk vdd net-_x1-pad3_ net-_r6-pad2_ o5 dtc_new
x7 clk vdd net-_x1-pad3_ net-_r7-pad2_ o6 dtc_new
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ ] [net-_u1-pad10_ ] [net-_u1-pad11_ ] [net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ ] u1
a2 [gnd o1 o2 net-_u2-pad4_ o3 o4 o5 o6 ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] u2
a3 [gnd ] [net-_u1-pad9_ ] u3
a4 [net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ ] [en0 gs0 out1 out2 out3 ] u4
* Schematic Name:                             pe, NgSpice Name: pe
.model u1 pe(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_5, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 10e-06 20e-03 10e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(en0)
plot v(gs0)
plot v(out1)
plot v(out2)
plot v(out3)
.endc
.end
